US05900490
1.29 g (4 mmol) of perylene-3,4-dicarboximide and 0.56 g (14.7 mmol) of sodium methylate are suspended in 50 ml of ethanol and the mixture is stirred for 5 h at room temperature. After removing the solvent by evaporation under reduced pressure, 50 ml of N-methyl-pyrrolidone and 1.01 ml of methyl iodide are added and the mixture is stirred for 2 h at room temperature. The solvent is removed by distillation under reduced pressure and the residue is washed with 100 ml of sulfuric acid (20%) and is then collected by suction and dried at 130° C. under reduced pressure, giving 1.17 g (87%) of red N-methylperylene-3,4-dicarboximide. IR (KBr): ν=1692 cm-1 (s), 1657 (s), 1570 (s), 1361 (s), 1238 (m), 810 (s), 748 (m). C23H13O2N (335,36) cacld.: C 82.37 H 3.91 N 4.18 found: C 81.71 H 4.01 N 3.98

reactant | perylene-3,4-dicarboximide | 4 mmol, 1.29 g | C1=CC2=C3C(=CC=C4C5=CC=CC6=CC=CC(C1=C34)=C56)C(NC2=O)=O | C22H11NO2
reactant | sodium methylate | 14.7 mmol, 0.56 g | C[O-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-methylperylene-3,4-dicarboximide | 1.17 g, 87% | CN1C(=O)C=2C=CC=3C=4C=CC=C5C=CC=C(C6=CC=C(C2C63)C1=O)C54 | C23H13NO2
